US04690943
1-Acetyl-3-(2-thenoyl)-2-oxindole
To a stirred solution of 486 mg (2.0 mmole) of 3-(2-thenoyl)-2-oxindole in 4 ml of N,N-dimethylformamide was added 538 mg (4.4 mmole) of 4-(N,N-dimethylamino)pyridine. The resulting mixture was cooled in an ice-bath, and then a solution of 225 mg (2.2 mmole) of acetic anhydride in 2 ml of N,N-dimethylformamide was added dropwise, with stirring during about 1 minute. The cooling bath was removed and stirring was continued for 1 hour, and then the reaction mixture was poured onto a mixture of 50 ml of water and 1.7 ml of 3N hydrochloric acid. The resulting mixture was cooled in an ice-bath, and the solid was recovered by filtration. This afforded 528 mg of a yellow solid. The yellow solid was recrystallized from ca. 15 ml of ethanol, giving 300 mg of the title compound as yellow crystals, m.p. 139°-140° C.

reactant | 3-(2-thenoyl)-2-oxindole | 2.0 mmole, 486 mg | C1(=CC=CS1)C(=O)C1C(NC2=CC=CC=C12)=O | C13H9NO2S
reactant | acetic anhydride | 2.2 mmole, 225 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 4.4 mmole, 538 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-Acetyl-3-(2-thenoyl)-2-oxindole | 300 mg | C(C)(=O)N1C(C(C2=CC=CC=C12)C(C1=CC=CS1)=O)=O | C15H11NO3S
